US06136852
Ethyl (S)-5-[2-(tert-butoxycarbonylamino)-1,2,3,4-tetrahydronaphthalen-7-yl]valerate (687 mg) was dissolved in ethanol (10 ml), and 3 M hydrogen chloride ethanol solution (3 ml) was added to the solution at room temperature with stirring. After reaction for 15 hours, the reaction mixture was concentrated in vacuo. A saturated aqueous sodium bicarbonate solution (10 ml) and dichloromethane (5 ml) were added to the residue, and the resulting mixture was stirred for an hour at room temperature. Water was added to the reaction mixture, and the resulting mixture was extracted with dichloromethane. The extract was washed with water and dried over anhydrous magnesium sulfate. Removal of the solvent in vacuo gave ethyl (S)-5-(2-amino-1,2,3,4-tetrahydronaphthalen-7-yl)valerate (509 mg) as an oil.

reactant | Ethyl (S)-5-[2-(tert-butoxycarbonylamino)-1,2,3,4-tetrahydronaphthalen-7-yl]valerate | 687 mg | C(C)(C)(C)OC(=O)N[C@@H]1CC2=CC(=CC=C2CC1)CCCCC(=O)OCC | C22H33NO4
reactant | hydrogen chloride ethanol | 3 M, 3 ml | C(C)O.Cl
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | ethyl (S)-5-(2-amino-1,2,3,4-tetrahydronaphthalen-7-yl)valerate | 509 mg | N[C@@H]1CC2=CC(=CC=C2CC1)CCCCC(=O)OCC | C17H25NO2
